### PR TITLE
Finish migration of `LocalFrame.lean`, address some TODOs

### PR DESCRIPTION
**Pull request by michaellee94**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 1]
```diff
@@ -200,89 +197,95 @@ lemma coeff_apply_of_notMem (hs : IsLocalFrameOn I F n s u) (hx : x ∉ u) (i :
...
---     hs.coeff i x = hs.coeff i x := by
---   by_cases hxe : x ∈ u
---   · simp [coeff, hxe]
---   · simp [coeff, hxe]
+/-- The coefficients of `t` in a local frame at `x` only depend on `t` at `x`. -/
+lemma coeff_congr (hs : IsLocalFrameOn I F n s u) (htt' : t x = t' x) (i : ι) :
+    (LinearMap.piApply (hs.coeff i)) t x = (LinearMap.piApply (hs.coeff i)) t' x := by
+  by_cases hxe : x ∈ u
+  · simp [LinearMap.piApply, coeff, hxe, htt']
+  · simp [LinearMap.piApply, coeff, hxe]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Does this work?

```suggestion
  by_cases hxe : x ∈ u <;> simp [LinearMap.piApply, coeff, hxe, htt']
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 2]
```diff
@@ -461,15 +468,14 @@ variable [VectorBundle 𝕜 F V] [ContMDiffVectorBundle 1 F V I]
...
 /-- If `s` is `C^k` at `x`, so is its coefficient `b.localFrame_coeff e i` in the local frame
 near `x` induced by `e` and `b` -/
 lemma contMDiffAt_localFrame_coeff (hxe : x ∈ e.baseSet) (hs : CMDiffAt k (T% s) x) (i : ι) :
-    CMDiffAt k (e.localFrame_coeff I b i s) x := by
+    CMDiffAt k ((LinearMap.piApply (e.localFrame_coeff I b i)) s) x := by
   -- This boils down to computing the frame coefficients in a local trivialisation.
   classical
   -- step 1: on e.baseSet, can compute the coefficient very well
-  let aux := fun x ↦ b.repr (e (s x)).2 i
+  let aux := fun x ↦ b.repr (e (TotalSpace.mk' F x (s x))).2 i
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Here and elsewhere: can the `T%` elaborator help, as in `T% s`?
```suggestion
  let aux := fun x ↦ b.repr (e ((T% s) x)).2 i
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 3]
```diff
@@ -69,28 +71,23 @@ the model fiber `F`.
...
-Strengthen the proof of smoothness in terms of the local frame coefficients.
-* `IsLocalFrameOn.contMDiffOn_coeff hs`: if `t` is a `C^k` section, each coefficient
-  `hs.coeff i t` is `C^k` on `U`
-* `IsLocalFrameOn.contMDiffAt_iff_coeff hs`: a section `t` is `C^k` at `x ∈ U`
-  iff all of its frame coefficients are
-* `IsLocalFrameOn.contMDiffOn_iff_coeff hs`: a section `t` is `C^k` on an open set `t ⊆ U`
-  iff all of its frame coefficients are
-* a `MDifferentiable` version of each of these
+This file proves smoothness criteria in terms of coefficients for local frames induced by a
+trivialization. A fully frame-intrinsic converse for `IsLocalFrameOn` will be added later.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean:90]: That was the version I was hoping for: for orthonormal frames, smoothness is almost automatic, and for any local frame, you can
- Gram-Schmidt to get something orthonormal,
- deduce smoothness of coefficients there,
- apply the base change matrix to get the original coefficients from the ones for the orthonormal system,
- deduce smoothness.

That's the argument that would be really nice to have...

**Review by grunweg — COMMENTED** [review]
Thank you for doing this! I have some comments about making this slightly nicer. My largest comment is about something which can very well be a follow-up!

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 3 above)
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean:90]: I have it already implemented (sent to you on Zulip), but it's enough extra new code that I think a follow-up PR is probably warranted so the review of these smaller changes doesn't get bogged down.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 1 above)
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Done

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 2 above)
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Made this substitution everywhere

**Comment by michaellee94** [comment]
Should be ready for another look. Thanks, @grunweg!

**Comment by grunweg** [comment]
Thanks again for your PR!
